US07592477B2
Step d) Formation of ethyl{[(3-dec-1-ynyl-1-benzofuran-5-yl)methyl][4-(trifluoromethyl)-benzyl]amino}(oxo)acetate
The same procedure as employed in the preparation of Example 226 (step c) but using ethyl{[(3-bromo-1-benzofuran-5-yl)methyl][4-(trifluoromethyl)benzyl]amino}(oxo)acetate and 1-decyne gave the title compound as a yellow oil (40%). 1H NMR (CDCl3, 300 MHz) δ 7.78 (s, 0.5H), 7.76 (s, 0.5H), 7.65 (d, 1H, J=7.9 Hz), 7.61 (d, 1H, J=7.9 Hz), 7.52-7.33 (m, 4H), 7.22 (m, 1H), 4.64 (s, 1H), 4.56 (s, 1H), 4.47 (s, 1H), 4.41 (s, 1H), 4.39 (q, 1H, J=7.2 Hz), 4.34 (q, 1H, J=7.2 Hz), 2.49 (m, 2H), 1.66 (m, 2H), 1.49 (m, 2H), 1.40-1.26 (m, 11H), 0.89 (t, 3H, J=6.8 Hz). M−(LC/MS(ESI)): 540.5; M+(LC/MS(ESI)): 542.7. HPLC (Condition A), Rt: 6.07 min (HPLC purity: 98.0%).

reactant | ethyl{[(3-bromo-1-benzofuran-5-yl)methyl][4-(trifluoromethyl)benzyl]amino}(oxo)acetate | C(C)OC(C(=O)N(CC1=CC=C(C=C1)C(F)(F)F)CC=1C=CC2=C(C(=CO2)Br)C1)=O | C21H17BrF3NO4
reactant | 1-decyne | C#CCCCCCCCC | C10H18
product | ethyl{[(3-dec-1-ynyl-1-benzofuran-5-yl)methyl][4-(trifluoromethyl)-benzyl]amino}(oxo)acetate | 40% | C(C)OC(C(=O)N(CC1=CC=C(C=C1)C(F)(F)F)CC=1C=CC2=C(C(=CO2)C#CCCCCCCCC)C1)=O | C31H34F3NO4
